US08492582B2
To a solution mixture of methyl 2-(2-(benzyloxy)-5-(2-(4-propylpiperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate (0.081 g) in methanol (1.5 mL) and ethyl acetate (1.5 mL), 10% palladium-carbon (0.081 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours and 30 minutes. Chloroform was added to the reaction mixture. The insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the obtained residue, and the solid substance was collected by filtration to obtain 0.043 g of methyl 2-(2-hydroxy-5-(2-(4-propylpiperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate as an orange solid.

reactant | methyl 2-(2-(benzyloxy)-5-(2-(4-propylpiperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate | 0.081 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCN(CC1)CCC | C37H41N3O5
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 1.5 mL | CO | CH4O
solvent | ethyl acetate | 1.5 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 0.081 g | [C].[Pd]
product | methyl 2-(2-hydroxy-5-(2-(4-propylpiperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate | 0.043 g | OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCN(CC1)CCC | C30H35N3O5
